US07388020B2
i) (S)-2-{3-[4-(5-Fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)piperidin-1-yl]-2-hydroxy-propoxy}-benzoic acid tert-butyl ester
A solution of 5-fluoro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one (235 mg, 0.5 mmol) and 2-oxiranylmethoxy-benzoic acid tert-butyl ester (250 mg, 1.0 mmol) in isopropanol (iPrOH) (10 mL) was stirred at 70° C. for 14 h, after which the solvent was removed in vacuo. The residue was purified by gradient flash chromatography on silica gel (CH2Cl2 to EtOH), yielding an off-white solid (240 mg, 99%).

reactant | 5-fluoro-1-piperidin-4-yl-1,3-dihydro-benzoimidazol-2-one | 0.5 mmol, 235 mg | FC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14FN3O
reactant | 2-oxiranylmethoxy-benzoic acid tert-butyl ester | 1.0 mmol, 250 mg | C(C)(C)(C)OC(C1=C(C=CC=C1)OCC1OC1)=O | C14H18O4
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (S)-2-{3-[4-(5-Fluoro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)piperidin-1-yl]-2-hydroxy-propoxy}-benzoic acid tert-butyl ester | 240 mg, 99% | C(C)(C)(C)OC(C1=C(C=CC=C1)OC[C@H](CN1CCC(CC1)N1C(NC2=C1C=CC(=C2)F)=O)O)=O | C26H32FN3O5
